US05500423
5,6-Dihydro-8-methyl-2-(4-methyl-1-piperazinyl)-4H-imidazo[4,5,1-ij]quinoline
A solution of 2-chloro-5,6-dihydro-8-methyl-4H-imidazo[4,5,1-ij]quinoline (3.50 g) in N-methylpiperazine (20 ml) was stirred, under nitrogen, under reflux for 1.5 hrs. The reaction mixture was quenched with saturated sodium bicarbonate solution (200 ml) and extracted with chloroform. The combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was purified by high performance liquid chromatography (silica; 9:1 dichloromethane-methanol). The appropriate fractions were collected and evaporated. The residue was recrystallized from ethyl acetate to give 3.48 g (76%) of product, mp 164°-165° C.

reactant | 2-chloro-5,6-dihydro-8-methyl-4H-imidazo[4,5,1-ij]quinoline | 3.50 g | ClC1=NC=2C=C(C=C3CCCN1C23)C | C11H11ClN2
reactant | N-methylpiperazine | 20 ml | CN1CCNCC1 | C5H12N2
product | 5,6-Dihydro-8-methyl-2-(4-methyl-1-piperazinyl)-4H-imidazo[4,5,1-ij]quinoline | 3.48 g, 76% | CC=1C=C2CCCN3C2=C(C1)N=C3N3CCN(CC3)C | C16H22N4
